US05646308
To a mixture of 30 mg of 2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxylic acid and 2 ml of tetrahydrofuran was added 28 mg of 1,1'-carbonyldiimidazole with stirring under ice-cooling and the mixture was stirred for 1 hour. Then, 0.10 ml of 2-cyanoethylamine was added therein, and the resultant mixture was stirred under ice-cooling for 1 hour and subsequently at room temperature for 12 hours. An aqueous potassium carbonate solution was added therein and the reaction solution was extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The resultant residue was recrystallized by a mixed solvent of ethyl acetate and hexane to obtain 26.6 mg of N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxamide with a melting point of 173°-174° C.

reactant | 2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxylic acid | 30 mg | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)[N+](=O)[O-])CF | C12H9F2NO5
reactant | 1,1'-carbonyldiimidazole | 28 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-cyanoethylamine | 0.10 ml | C(#N)CCN | C3H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxamide | 26.6 mg | C(#N)CCNC(=O)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C15H13F2N3O4
